* Given example

* Voltage Sources
V1 5 0 1.3e-2
V_source2 3 0 0.2
Vsource_1 7 6 2

D1 9 20 diode_model 0.1
M_mos 10 11 21 13 mosfet L=1e-3 W=0.0035
Qbjt 14 16 31 bjt_model
* Current Sources
I1 4 8 1e-3
I2 0 6 1e-3

* * Resistors
R1 1 5 1.5
R2 1 2 1
R3 5 2 50
R4 5 6 0.1
R5 2 6 1.5
R6 3 4 0.1
R7 8 0 1e3
R8 4 0 10